US07126025B2
4-Dimethylamino-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-ethoxy-quinolin-6-yl]-amide (Crude)
A 3 L multi-neck flask equipped with agitator, thermometer, dip tube, and nitrogen protection is charged N-methyl pyrrolidinone (0.77 kg, 0.75 L, d=1.033 g/mL). At ambient temperature is added 4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline (0.0748 kg). The reaction mixture is heated to 40–45° C. and maintained for about (15 minutes). The reaction mixture is cooled to (0–10° C.) and the light suspension of 4-(dimethylamino)-2-butenoyl chloride hydrochloride in CH3CN added via dip tube and positive nitrogen pressure, over (30–45 minutes) while maintaining the temperature (0–10° C.) for at least (2 hours). Reaction completion is monitored by HPLC. The reaction is complete when there is ≦2% of the starting material (4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline) present. To a 12 L multi-neck flask equipped with agitator, thermometer, dip tube, and nitrogen protection is charged with water (2.61 kg, 2.61 L) and sodium bicarbonate (0.209 kg) with stirring until a solution is obtained followed by cooling to (20–24° C.) to which is transferred the reaction mixture above which contains ≦2% of the starting material (4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline), via dip tube and positive nitrogen pressure, to the 12 L flask over about (45–60 minutes) while maintaining the temperature at (20–24° C.). The temperature is maintained at (20–24° C.) for at least (1 hour). Filter the reaction mixture on a Buchner funnel, rinse with water (3×0.40 kg, 3×0.40 L), and maintain suction until dripping stops. Dry the product in a vacuum oven at about (50° C.) and about (10 mm Hg) for about (28–30 hours). The yield is 78.5 g (86%) at 79.7% strength and 12.3% total impurities.

reactant | N-methyl pyrrolidinone | 0.75 L, 0.77 kg | CN1CCCC1=O | C5H9NO
reactant | 4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline | 0.0748 kg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)N)OCC)C#N | C18H14ClFN4O
reactant | 4-(dimethylamino)-2-butenoyl chloride hydrochloride | Cl.CN(CC=CC(=O)Cl)C
reactant | sodium bicarbonate | 0.209 kg | C([O-])(O)=O.[Na+]
solvent | CH3CN | CC#N | C2H3N
solvent | water | 2.61 L, 2.61 kg | O | H2O
product | 4-Dimethylamino-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-ethoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(C)C)=O)OCC)C#N | C24H23ClFN5O2
